US06777419B1
4.3 g of methyl 3-[7-(3-chloro-4-methoxybenzylamino)-1-methyl-3-propyl-1H-pyrazolo[4,3-d]pyrimidin-5-yl]-propionate are dissolved in 30 ml of tetrahydrofuran (THF) and, after addition of 10 ml of 10% NaOH, stirred at 60° for 8 hours. After addition of 10% HCl, the deposited crystals are separated off and recrystallized from methanol. 3.7 g of 3-[7-(3-chloro-4-methoxybenzylamino)-1-methyl-3-propyl-1H-pyrazolo[4,3-d]pyrimidin-5-yl]propionic acid, m.p. 178°, are obtained.

reactant | methyl 3-[7-(3-chloro-4-methoxybenzylamino)-1-methyl-3-propyl-1H-pyrazolo[4,3-d]pyrimidin-5-yl]-propionate | 4.3 g | ClC=1C=C(CNC=2C3=C(N=C(N2)CCC(=O)OC)C(=NN3C)CCC)C=CC1OC | C21H26ClN5O3
reactant | NaOH | 10 ml | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 3-[7-(3-chloro-4-methoxybenzylamino)-1-methyl-3-propyl-1H-pyrazolo[4,3-d]pyrimidin-5-yl]propionic acid | 3.7 g | ClC=1C=C(CNC=2C3=C(N=C(N2)CCC(=O)O)C(=NN3C)CCC)C=CC1OC | C20H24ClN5O3
